US07618985B2
Three drops of glacial acetic acid was added to a solution of 6-(piperidin-4-yloxy)-isoquinolin-1-ylamine (35 mg, 0.14 mmol) in N, N-dimethylformamide (1 ml), followed by addition of formaldehyde (37% aqueous solution, 200 mL). Sodium triacetoxyboro-hydride (150 mg) was added to the mixture, which was shaken for 72 h. Saturated aqueous sodium hydrogen carbonate was added and then the mixture acidified with acetic acid. The mixture was loaded onto a pre-acidified SCX column, washed with methanol and then eluted with 2M ammonia in methanol. The crude product was isolated and further purified using prep-HPLC to give 6-(1-methylpiperidin-4-yloxy)-isoquinolin-1-ylamine (19 mg), EIMS: m/z=258.5 [M+H]+

reactant | 6-(piperidin-4-yloxy)-isoquinolin-1-ylamine | 0.14 mmol, 35 mg | N1CCC(CC1)OC=1C=C2C=CN=C(C2=CC1)N | C14H17N3O
reactant | formaldehyde | 200 mL | C=O | CH2O
reactant | Sodium triacetoxyboro-hydride | 150 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
catalyst | acetic acid | Three drops | C(C)(=O)O | C2H4O2
solvent | N, N-dimethylformamide | 1 ml | CN(C=O)C | C3H7NO
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 6-(1-methylpiperidin-4-yloxy)-isoquinolin-1-ylamine | 19 mg | CN1CCC(CC1)OC=1C=C2C=CN=C(C2=CC1)N | C15H19N3O
